US08895565B2
Ethyl 5-{6-methyl-5-{[4-(trifluoromethyl)phenyl]ethynyl}pyrimidin-4-ylaminomethyl}-2-furancarboxylate [Compound No. 1]
A mixture of 4-amino-6-methyl-5-{[4-(trifluoromethyl)phenyl]ethynyl}pyrimidine (2 g), triethylamine (0.76 g), ethyl 5-chloromethyl-2-furancarboxylate (1.4 g) and dichloromethane (60 ml) was heated to reflux while stirring for 72 hours. The mixture thus obtained was concentrated under reduced pressure. After the resultant residue was washed with water added thereto, an organic phase was dried over anhydrous sodium sulfate and then evaporated. The evaporation residue was purified by column chromatography to obtain a target substance (0.5 g). The target substance was subjected to e.g., proton nuclear magnetic resonance spectrometry (1H-NMR) and mass spectrometry (MS) and confirmed as the titled compound. Furthermore, MS measurement result is shown.

reactant | 4-amino-6-methyl-5-{[4-(trifluoromethyl)phenyl]ethynyl}pyrimidine | 2 g | NC1=NC=NC(=C1C#CC1=CC=C(C=C1)C(F)(F)F)C | C14H10F3N3
reactant | triethylamine | 0.76 g | C(C)N(CC)CC | C6H15N
reactant | ethyl 5-chloromethyl-2-furancarboxylate | 1.4 g | ClCC1=CC=C(O1)C(=O)OCC | C8H9ClO3
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | Ethyl 5-{6-methyl-5-{[4-(trifluoromethyl)phenyl]ethynyl}pyrimidin-4-ylaminomethyl}-2-furancarboxylate | CC1=C(C(=NC=N1)NCC1=CC=C(O1)C(=O)OCC)C#CC1=CC=C(C=C1)C(F)(F)F | C22H18F3N3O3
